US05939405
To a solution of 0.68 g (1.9 mmol) of 3-[(5-chloro-2-hydroxyphenyl)methyl]-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2(3H)-one in 15 mL of THF cooled in an ice bath was added 90 mg (2.2 mmol) of 60% sodium hydride. After stirring for 5 minutes, 1.0 g (1.9 mmol) of tetrabenzylpyrophosphate (purchased from Aldrich chemical company) was added. The ice bath was removed and stirring was continued for 1 hr, after which time the mixture became very viscous. Stirring was discontinued, and the reaction was allowed to stand for 1 hr. The solid was filtered and washed with THF. The filtrate was evaporated and the residue was triturated with acetonitrile. The solids were filtered and the filtrate was concentrated and purified on a flash chromatography column, eluting with hexane/ethyl acetate 3:1 to give 0.97 g of 3-[(5-chloro-2-[[bis[phenylmethyl]phosphono]oxy]phenyl)methyl]-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2(3H)-one as a clear, colorless oil which partially solidified upon standing. MS 631 (MH+).

reactant | 3-[(5-chloro-2-hydroxyphenyl)methyl]-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2(3H)-one | 1.9 mmol, 0.68 g | ClC=1C=CC(=C(C1)CN1C(OC(=N1)C1=CC=C(C=C1)C(F)(F)F)=O)O | C16H10ClF3N2O3
reactant | sodium hydride | 2.2 mmol, 90 mg | [H-].[Na+]
reactant | tetrabenzylpyrophosphate | 1.9 mmol, 1.0 g | C(C1=CC=CC=C1)OP(OCC1=CC=CC=C1)(=O)OP(=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C28H28O7P2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-[(5-chloro-2-[[bis[phenylmethyl]phosphono]oxy]phenyl)methyl]-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2(3H)-one | 0.97 g | ClC=1C=CC(=C(C1)CN1C(OC(=N1)C1=CC=C(C=C1)C(F)(F)F)=O)OP(=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C30H23ClF3N2O6P
